US04882350
5-n-heptyloxy-pyrrolidin-2-one.
A mixture of 8 g of 5-hydroxy-pyrrolidin-2-one, 100 cm3 of n-heptanol and 4 g of Amberlite IR 120H is heated to 60° C. for 4 hours, filtered, then the solvent is eliminated under 0.3 mbar at 45° C./60° C. 11.9 g of the expected product is obtained, m.p. 52°-54° C., crystallized from hexane.

reactant | 5-hydroxy-pyrrolidin-2-one | 8 g | OC1CCC(N1)=O | C4H7NO2
reactant | n-heptanol | 100 cm3 | C(CCCCCC)O | C7H16O
product | 5-n-heptyloxy-pyrrolidin-2-one | 11.9 g | C(CCCCCC)OC1CCC(N1)=O | C11H21NO2
